US05710169
N-[2-(3,4-Dichlorophenyl)-2-pyrrolidin-1-ylethyl]-N-methylbenzamide hydrochloride salt
A solution of N-[2-(3,4-dichlorophenyl)-2-pyrrolidin-1-yl-ethyl]benzamide (260 mg) in dimethylsulfoxide (1.5 mL) and methyl iodide (230 mg) were added to a solution of KOH (190 mg) in dimethylsulfoxide (0.7 mL). The reaction was stirred at 23° C. for 3/4 hour, was poured into water (10 mL), and extracted with dichloromethane (20 mL). The organic layer was washed (brine), dried and evaporated to a gold oil. Chromatography, with ethyl acetate:hexane (50:50 then 75:25) as the eluent, gave an oil, which was dissolved in diethylether and treated with hydrochloric acid (g)/diethylether to provide the title compound as a white solid (60 mg); mp 199°-202° C.; MS: m/z=377(M+1); NMR: 1.98 (m, 1), 2.12 (m,2), 2.35 (m, 1), 2.54 (s,3,), 2.61 (m, 1), 3.35 (m, 2), 3.88 (t,1), 4.13 (m, 1), 4.63 (m, 2), 7.2 (dd,1), 7.26 (s,1), 7.53 (d,1), 7.79 (broad s,1), 8.11 (broad s,1), 13.23 (broad s,1). Analysis Calculated: C, 57.43; H, 5.6; N, 6.7; Found: C, 57.59; H, 5.61; N, 6.35.

reactant | N-[2-(3,4-dichlorophenyl)-2-pyrrolidin-1-yl-ethyl]benzamide | 260 mg | ClC=1C=C(C=CC1Cl)C(CNC(C1=CC=CC=C1)=O)N1CCCC1 | C19H20Cl2N2O
reactant | methyl iodide | 230 mg | CI | CH3I
reactant | KOH | 190 mg | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylsulfoxide | 1.5 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 0.7 mL | CS(=O)C | C2H6OS
solvent | diethylether | C(C)OCC | C4H10O
solvent | water | 10 mL | O | H2O
product | N-[2-(3,4-Dichlorophenyl)-2-pyrrolidin-1-ylethyl]-N-methylbenzamide hydrochloride salt | 60 mg | Cl.ClC=1C=C(C=CC1Cl)C(CN(C(C1=CC=CC=C1)=O)C)N1CCCC1 | InChI=1S/C20H22Cl2N2O.ClH/c1-23(20(25)15-7-3-2-4-8-15)14-19(24-11-5-6-12-24)16-9-10-17(21)18(22)13-16;/h2-4,7-10,13,19H,5-6,11-12,14H2,1H3;1H
